US08669266B2
(iv) (S)-2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester
To a solution of 6.5 g of (S)-2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester 50 ml of DMF, 6.5 g of cesium carbonate and 4.2 g of Bromo-acetic acid benzyl ester was added and stirred for 16 h. Then, the reaction mixture was diluted with water and extracted with DCM (3×150 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was used in the next reaction step. Yield: 8.9 g.

reactant | (S)-2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester | 50 ml, 6.5 g | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)O)=O | C20H24N2O6
reactant | DMF | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromo-acetic acid benzyl ester | 4.2 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
solvent | water | O | H2O
product | (S)-2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)=O | C29H32N2O8
